US03948939
9-Benzoyl-3hydroxymethyl-1,2,3,4-tetrahydrocarbazole
1Benzoyl-1phenylhydrazine hydrochloride (23.8 g.) and 18 g. of 4-hydroxymethylcyclohexanone ethylene ketal in 450 ml. of absolute ethyl alcohol was heated under reflux for four hours. The chilled mixture was filtered, the filtrate was evaporated to dryness under reduced pressure and the resulting residue was dissolved in ether. The ether solution was washed with water, dilute hydrochloric acid, water, dilute sodium bicarbonate, and water, dried and evaporated to dryness to give, after recrystallization from ethyl acetate-hexane, 9.6 g. of 9-benzoyl-3-hydroxymethyl-1,2,3,4-tetrahydrocarbazole; m.p. 105°-107°C.

reactant | 1Benzoyl-1phenylhydrazine hydrochloride | 23.8 g | Cl.C(C1=CC=CC=C1)(=O)N(N)C1=CC=CC=C1
reactant | 4-hydroxymethylcyclohexanone ethylene ketal | C1COC2(CCC(CC2)CO)O1 | C9H16O3
solvent | ethyl alcohol | C(C)O | C2H6O
product | 9-Benzoyl-3hydroxymethyl-1,2,3,4-tetrahydrocarbazole | C(C1=CC=CC=C1)(=O)N1C2=CC=CC=C2C=2CC(CCC12)CO | C20H19NO2
